# Simple netlist to test vsin / AC analysis

vsin:vin 1 0 vdc=2V mag=1. rint=10. phase=0
res:r1 1 2 r=1k
cap:c1 2 0 c=10n

.analysis ac start=10. stop=10MEGHz sweep_num=100 log=True shell=0

.plot ac_mag 1 2
.plot ac_phase 1 2
.plot ac_dB 1 2

.end


